US04245108
A mixture of 1.98 g (10 mmols) of 3-phenoxybenzaldehyde, 1.65 g (15 mmols) of thiophenol, 1.79 g (15 mmols) of chloroform and 2 ml of ethanol was stirred at room temperature (about 15° to 30° C.), and 10 ml of an ethanolic solution of 2.8 g (50 mmols) of potassium hydroxide was then added dropwise to the mixture while maintaining the temperature below 45° C. The reaction mixture was further stirred for an additional one hour at 45° C. and then allowed to stand overnight at room temperature while stirring. The reaction mixture was then poured into a mixture of 6 N sulfuric acid and ice clump to render the mixture acidic and then saturated with sodium chloride. The saturated solution was then extracted with diethyl ether and the extract was concentrated. The resulting concentrate was then charged into a silica gel column, and the column was eluted first with benzene-hexane (1:1 by volume) and then with hexane-ethyl acetate (4:1 by volume). The combined eluate was concentrated to obtain 2.58 g (77% yield) of 2-phenylthio-2-(3-phenoxyphenyl)acetic acid. NMR (CCl4) δ of Product: 4.68 (1H, s), 6.7-7.4 (14H, m), 11.6 (1H, bs).

reactant | 3-phenoxybenzaldehyde | 10 mmols, 1.98 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | thiophenol | 15 mmols, 1.65 g | C1(=CC=CC=C1)S | C6H6S
reactant | chloroform | 15 mmols, 1.79 g | C(Cl)(Cl)Cl | CHCl3
reactant | potassium hydroxide | 50 mmols, 2.8 g | [OH-].[K+]
reactant | sulfuric acid | 6 N | S(O)(O)(=O)=O | H2O4S
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethanol | 2 ml | C(C)O | C2H6O
product | 2-phenylthio-2-(3-phenoxyphenyl)acetic acid | 2.58 g, 77% yield | C1(=CC=CC=C1)SC(C(=O)O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C20H16O3S
